US08008303B2
5′-[2-(tert-Butoxycarbonyl-methyl-amino)-acetylamino]-2′-chloro-biphenyl-4-carboxylic acid
5′-[2-(tert-Butoxycarbonyl-methyl-amino)-acetylamino]-2′-chloro-biphenyl-4-carboxylic acid ethyl ester (494 mg) in 2M NaOH (10 ml) and ethanol (15 ml) was stirred at room temp for 18 h. The ethanol was then evaporated and the residue acidified with HCl. The colourless solid formed was collected by filtration and dried (420 mg).

reactant | 5′-[2-(tert-Butoxycarbonyl-methyl-amino)-acetylamino]-2′-chloro-biphenyl-4-carboxylic acid ethyl ester | 494 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(CN(C)C(=O)OC(C)(C)C)=O)Cl | C23H27ClN2O5
solvent | NaOH | 2M, 10 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5′-[2-(tert-Butoxycarbonyl-methyl-amino)-acetylamino]-2′-chloro-biphenyl-4-carboxylic acid | C(C)(C)(C)OC(=O)N(CC(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)Cl)C | C21H23ClN2O5
